US06673797B1
To a mixture of the resulting 1-benzenesulfonyl-5-methanesulfonylindole-2-carboxylic acid methyl ester (3.5 g), tetrahydrofuran (45 ml) and methanol (12 ml), potassium hydroxide (0.79 g) was added at 0° C. and the mixture was stirred at the same temperature for 3 hours. 2N hydrochloric acid was added, and the mixture was extracted with dichloromethane. The organic layer was washed with water and dried over sodium sulfate. The solvent was distilled off under reduced pressure to obtain 2.2 g of a white amorphous 5-methanesulfonylindole-2-carboxylic acid methyl ester as a crude product.

reactant | 1-benzenesulfonyl-5-methanesulfonylindole-2-carboxylic acid methyl ester | 3.5 g | COC(=O)C=1N(C2=CC=C(C=C2C1)S(=O)(=O)C)S(=O)(=O)C1=CC=CC=C1 | C17H15NO6S2
reactant | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
reactant | potassium hydroxide | 0.79 g | [OH-].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 12 ml | CO | CH4O
product | 5-methanesulfonylindole-2-carboxylic acid methyl ester | 2.2 g | COC(=O)C=1NC2=CC=C(C=C2C1)S(=O)(=O)C | C11H11NO4S
